US07989471B2
2-(4-Fluoro-benzoylamino)-4-methoxy-3-methyl-benzoic acid methyl ester (65)
4-Fluoro benzoic acid (700 mg, 5 mmol) was dissolved in dichloromethane (20 ml) and pyridine (2 ml). 2-Amino-4-methoxy-3-methyl-benzoic acid methyl ester (878 mg, 4.5 mmol) was added and the mixture was refluxed for 5 h. Water was added and the mixture was extracted with dichloromethane. The organic phase was dried, filtered and evaporated and the afforded residue was purified by column chromatography on silica gel, eluted with ether-pentane 1:1 which gave pure title compound (870 mg, 61%). MS (M+H+) 318.

reactant | 4-Fluoro benzoic acid | 5 mmol, 700 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | 2-Amino-4-methoxy-3-methyl-benzoic acid methyl ester | 4.5 mmol, 878 mg | COC(C1=C(C(=C(C=C1)OC)C)N)=O | C10H13NO3
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluoro-benzoylamino)-4-methoxy-3-methyl-benzoic acid methyl ester | 870 mg, 61% | COC(C1=C(C(=C(C=C1)OC)C)NC(C1=CC=C(C=C1)F)=O)=O | C17H16FNO4
